US06346527B1
To a mixture of ethyl 9-carboxy-2,3-dihydro-1-benzoxepin-4-carboxylate (0.52 g) and triethylamine (0.33 ml) in tetrahydrofuran (5.2 ml) was added dropwise isobutyl chloroformate (0.31 ml) below 5° C. under ice-sodium chloride cooling. The reaction mixture was stirred for 30 minutes at the same temperature. The resulting precipitate was filtered off and washed with cold tetrahydrofuran. The filtrate was added to a solution of sodium borohydride (75 mg) in aqueous tetrahydrofuran (10 ml, 90% v/v) at 0° C. The reaction mixture was stirred for 30 minutes at the ambient temperature and evaporated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by medium pressure liquid chromatography (silica gel) using a mixture of ethyl acetate and n-hexane (1:9) to give a solid of ethyl 2,3-dihydro-9-hydroxymethyl-1-benzoxepin-4-carboxylate (0.37 g).

reactant | ethyl 9-carboxy-2,3-dihydro-1-benzoxepin-4-carboxylate | 0.52 g | C(=O)(O)C1=CC=CC=2C=C(CCOC21)C(=O)OCC | C14H14O5
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.31 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 5.2 ml | O1CCCC1 | C4H8O
product | ethyl 2,3-dihydro-9-hydroxymethyl-1-benzoxepin-4-carboxylate | 0.37 g | OCC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C14H16O4
